US04652574
A mixture of 6.5 g of 6-isobutylthio-2-pyridinol and 50 ml of pyridine was stirred and cooled to 10° C. or below. 10 g of trifluoromethanesulfonic anhydride was added dropwise to the mixture. The temperature of the resulting mixture was brought to room temperature and the mixture was stirred at this temperature for 2 hours and at 50° to 60° C. for one hour to complete the reaction. The reaction mixture was poured into 200 ml of chilled water and extracted with benzene twice. The residue obtained by distillating away the benzene was purified by silica gel column chromatography (with toluene and n-hexane) to obtain 9.3 g of objective 6-isobutylthio-2-pyridyl trifluoromethanesulfonate as a colorless oil (yield: 84.3%).

reactant | 6-isobutylthio-2-pyridinol | 6.5 g | C(C(C)C)SC1=CC=CC(=N1)O | C9H13NOS
reactant | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 10 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | water | 200 ml | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 6-isobutylthio-2-pyridyl trifluoromethanesulfonate | 9.3 g, yield: 84.3% | FC(S(=O)(=O)OC1=NC(=CC=C1)SCC(C)C)(F)F | C10H12F3NO3S2
